US06005142
B. 5-[3,5-bis(1,1-dimethylethyl)-4-hydroxyphenyl]methyl-2,4-thiazolidinedione
To 15.0 g (0.045 moles) of 5-{[3,5-bis(1,1-dimethylethyl)-4-hydroxyphenyl]} methylene-2,4-thiazolidinedione, in 375 ml of ethyl acetate, 3.0 g of 10% palladium on carbon was added. The mixture was heated at 80° C. in the presence of 50 psi (345 KPa) of hydrogen for 4.5 hours. An additional 3.0 g of 10% palladium on carbon was added and the mixture was again heated at 80° C. in the presence of 50 psi (345 KPa) of hydrogen for 2 hours. The catalyst was removed by filtration and the filtrate was evaporated to afford a solid. The solid was recrystallized from toluene and dried at 60° C. to obtain 8.93 g (59% yield) of subtitled compound.

reactant | 5-{[3,5-bis(1,1-dimethylethyl)-4-hydroxyphenyl]} methylene-2,4-thiazolidinedione | 0.045 moles, 15.0 g | CC(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C=C1C(NC(S1)=O)=O | C18H23NO3S
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 375 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium on carbon | 3.0 g | [Pd] | Pd
catalyst | palladium on carbon | 3.0 g | [Pd] | Pd
product | 5-[3,5-bis(1,1-dimethylethyl)-4-hydroxyphenyl]methyl-2,4-thiazolidinedione | 8.93 g, 59% yield | CC(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)CC1C(NC(S1)=O)=O | C18H25NO3S
